US06426345B1
A mixture of 3-amino-2-chloropyridine (2.57 g) and 3-nitroaniline (2.76 g) was heated at 200° C. for 1 hour. The mixture was cooled and partitioned between aqueous sodium bicarbonate solution and chloroform. The organic layer was washed with brine, dried over magnesium sulfate, concentrated and subjected to silica gel column chromatography (chloroform-methanol, 40:1) to afford 3-amino-2-(3-nitrophenylamino)pyridine (141 mg) as an orange solid.

reactant | 3-amino-2-chloropyridine | 2.57 g | NC=1C(=NC=CC1)Cl | C5H5ClN2
reactant | 3-nitroaniline | 2.76 g | [N+](=O)([O-])C=1C=C(N)C=CC1 | C6H6N2O2
product | 3-amino-2-(3-nitrophenylamino)pyridine | 141 mg | NC=1C(=NC=CC1)NC1=CC(=CC=C1)[N+](=O)[O-] | C11H10N4O2
